US08067406B2
Production of (3R)-1-(2-(2-(1-benzothiophene-3-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride
0.99 g of (3R)-1-(2-(2-(1-benzothiophene-3-yl)ethoxy)ethyl)-3-pyrrolidinol was dissolved in 5.0 ml of ethyl acetate. Thereafter, 1.10 ml of an ethyl acetate solution containing 3.25 mol/l dry hydrogen chloride was added to the obtained solution, and the obtained mixture was then stirred at a room temperature for 1 hour. Thereafter, the solvent was distilled away under a reduced pressure, so as to obtain 1.05 g of a light yellow oil product, (3R)-1-(2-(2-(1-benzothiophene-3-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride.

reactant | (3R)-1-(2-(2-(1-benzothiophene-3-yl)ethoxy)ethyl)-3-pyrrolidinol | 0.99 g | S1C=C(C2=C1C=CC=C2)CCOCCN2C[C@@H](CC2)O | C16H21NO2S
reactant | hydrogen chloride | 3.25 mol/l | Cl | ClH
solvent | ethyl acetate | 5.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.10 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-(2-(1-benzothiophene-3-yl)ethoxy)ethyl)-3-pyrrolidinol hydrochloride | 1.05 g | Cl.S1C=C(C2=C1C=CC=C2)CCOCCN2C[C@@H](CC2)O | InChI=1S/C16H21NO2S.ClH/c18-14-5-7-17(11-14)8-10-19-9-6-13-12-20-16-4-2-1-3-15(13)16;/h1-4,12,14,18H,5-11H2;1H/t14-;/m1./s1
